US07700638B2
N,N-Diethyl-3-(3-phenyl-6-trifluoromethyl-3H-benzimidazol-4-yl)acrylamide
This was prepared from 3-(3-phenyl-6-trifluoromethyl-3H-benzimidazol-4-yl)acrylic acid methyl ester in a similar manner to 1-(4-methylpiperazin-1-yl)-3-(3-phenyl-6-trifluoromethyl-3H-benzoimidazol-yl)prop-2-en-1-one. The oily residue was purified by flash chromatography over silica gel (eluted with dichloromethane/methanol 0.5-2.5% gradient) to afford the title compound as a white solid (300 mg, 53%), m/z 388.0 (M+H)+.

reactant | 3-(3-phenyl-6-trifluoromethyl-3H-benzimidazol-4-yl)acrylic acid methyl ester | COC(C=CC1=CC(=CC=2N=CN(C21)C2=CC=CC=C2)C(F)(F)F)=O | C18H13F3N2O2
reactant | 1-(4-methylpiperazin-1-yl)-3-(3-phenyl-6-trifluoromethyl-3H-benzoimidazol-yl)prop-2-en-1-one | CN1CCN(CC1)C(C=CC=1N(C2=C(N1)C=C(C=C2)C(F)(F)F)C2=CC=CC=C2)=O | C22H21F3N4O
product | N,N-Diethyl-3-(3-phenyl-6-trifluoromethyl-3H-benzimidazol-4-yl)acrylamide | 300 mg, 53% | C(C)N(C(C=CC1=CC(=CC=2N=CN(C21)C2=CC=CC=C2)C(F)(F)F)=O)CC | C21H20F3N3O
